US08067426B2
Intermediate 42: 8-(Methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
8-Bromo-2-{[(1S)-1-methylpropyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.79 g, 4.83 mmol) was dissolved in methanol (15 ml) and 25% sodium methoxide in methanol (3.2 ml, 4.83 mmol) was added and the mixture heated to reflux for 2.5 hours. The reaction mixture was left standing at room temperature overnight and then concentrated in vacuo and the residue partitioned between dichloromethane (40 ml) and saturated ammonium chloride solution (40 ml). The layers were separated using a hydrophobic frit and the aqueous phase was re-extracted with dichloromethane (40 ml). The combined organic extracts were concentrated in vacuo to give the title compound as a yellow foam (1.65 g).

reactant | 8-Bromo-2-{[(1S)-1-methylpropyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 4.83 mmol, 1.79 g | BrC=1N(C2=NC(=NC(=C2N1)N)O[C@H](CC)C)C1OCCCC1 | C14H20BrN5O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 4.83 mmol, 3.2 ml | CO | CH4O
product | 8-(Methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.65 g | COC=1N(C2=NC(=NC(=C2N1)N)O[C@H](CC)C)C1OCCCC1 | C15H23N5O3
